US05252538
Preparation of 3-aminopyrazinecarboxaldehyde
A suspension of 3-aminopyrazine methanol, 6.3 g (0.05 mol) and manganese dioxide (38.0 g) in 400 mL of chloroform is stirred at room temperature for two hours and the resulting solid is filtered off. The filtrate is evaporated to dryness which gives the desired product as a yellow crystalline solid, (5.00 g, 82% yield) having a melting point 110°-114° C.

reactant | 3-aminopyrazine methanol | NC=1C(=NC=CN1)CO | C5H7N3O
solvent | chloroform | 400 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | 38.0 g | [O-2].[O-2].[Mn+4]
product | 3-aminopyrazinecarboxaldehyde | 5.00 g, 82% yield | NC=1C(=NC=CN1)C=O | C5H5N3O
